US08222219B2
A solution of 2,2,6,6-tetramethylpiperidine (1.04 g) in tetrahydrofuran (15 ml) was cooled to −78° C. under argon atmosphere, and thereto was added dropwise n-butyl lithium (1.58 M hexane solution, 4.43 ml). The reaction mixture was stirred at the same temperature for 30 minutes, and thereto was added dropwise a solution of 1-bromo-4-fluoronaphthalene (1.50 g) in tetrahydrofuran (12 ml) at −78° C. The mixture was stirred at the same temperature for one hour, and thereto was added dropwise a solution of 5-chloro-2-thiophenecarboxaldehyde (1.07 g) in tetrahydrofuran (11 ml) at −78° C. The mixture was stirred at the same temperature for 30 minutes, and thereto was added a saturated aqueous ammonium chloride solution, and the reaction mixture was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by an aminosilane-treated silica gel column chromatography (hexane:ethyl acetate=3:1) to give 4-bromo-1-fluoro-2-naphthyl-5-chloro-2-thienylmethanol (2.00 g) as pale yellow powder. APCI-Mass m/Z 353/355 (M+H—H2O). (2) The above 4-bromo-1-fluoro-2-naphthyl-5-chloro-2-thienylmethanol was treated in a manner similar to Reference Example 1-(2) to give the desired 4-bromo-2-(5-chloro-2-thienylmethyl)-1-fluoronaphthalene as a yellow solid.

reactant | 2,2,6,6-tetramethylpiperidine | 1.04 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyl lithium | 1.58 M, 4.43 ml | C(CCC)[Li]
reactant | 1-bromo-4-fluoronaphthalene | 1.50 g | BrC1=CC=C(C2=CC=CC=C12)F | C10H6BrF
reactant | 5-chloro-2-thiophenecarboxaldehyde | 1.07 g | ClC1=CC=C(S1)C=O | C5H3ClOS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
product | 4-bromo-1-fluoro-2-naphthyl-5-chloro-2-thienylmethanol | 2.00 g | BrC1=CC(=C(C2=CC=CC=C12)F)C(O)C=1SC(=CC1)Cl | C15H9BrClFOS
